US07981900B2
6-Chloro-N-(1-pyridin-3-ylbutyl)pyrimidin-4-amine
To a solution of 1-pyridin-3-ylbutan-1-amine (100 mg, 0.67 mmol) in ethanol (4 mL) was added 4,6-dichloropyrimidine (109 mg, 0.73 mmol) and diisopropylethylamine (232 μL, 1.33 mmol). The solution was stirred for 3 days after which time the solvent was removed under reduced pressure. The residue was dissolved in ethyl acetate (25 mL) and washed with H2O (3×15 mL), brine (15 mL) and dried (Na2SO4). The residue remaining after concentration in vacuo was chromatographed using ethyl acetate-hexanes (4:6-9:1) as eluant to separate the desired product (28 mg).

reactant | 1-pyridin-3-ylbutan-1-amine | 0.67 mmol, 100 mg | N1=CC(=CC=C1)C(CCC)N | C9H14N2
reactant | 4,6-dichloropyrimidine | 0.73 mmol, 109 mg | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | diisopropylethylamine | 1.33 mmol, 232 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 6-Chloro-N-(1-pyridin-3-ylbutyl)pyrimidin-4-amine | ClC1=CC(=NC=N1)NC(CCC)C=1C=NC=CC1 | C13H15ClN4
